US03963675
3.6 g of 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene were hydrogenated in 80 ml of ethyl acetate in the presence of 500 mg of palladium on calcium carbonate (5%). After the uptake of one equivalent of hydrogen, the solution was filtered over Celite, concentrated and subjected under a high vacuum to a short-path distillation. 2-(2-Formylethyl)-3-isopropyl-1-methyl-cyclopent-1-ene having a fresh, woody fragrance was obtained in quantitative yield; boiling point 0.001 about 70°C; nD20 = 1.4703; IRfilm : μmax = 2740, 1728, 1470, 1385, 1368 and 1100 cm-1.

reactant | 2-(2-formylethyl)-3-isopropenyl-1-methyl-cyclopent-1-ene | 3.6 g | C(=O)CCC1=C(CCC1C(=C)C)C | C12H18O
reactant | hydrogen | one equivalent | [H][H] | H2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on calcium carbonate | 500 mg | [Pd] | Pd
product | 2-(2-Formylethyl)-3-isopropyl-1-methyl-cyclopent-1-ene | quantitative yield | C(=O)CCC1=C(CCC1C(C)C)C | C12H20O
